US07754747B2
Step 2: 5-[({6-[2-(2-Naphthylmethyl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)methyl]-1H-tetrazole.
A mixture of ({6-[2-(2-naphthylmethyl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetonitrile (99 mg, 0.252 mmol), prepared in the previous step, sodium azide (50.2 mg, 0.772 mmol) and ammonium chloride (40.7 mg, 0.761 mmol) in 10 mL of DMF was stirred under nitrogen at 100° C. for three hours. Following the reaction by MS, starting material remained. Additional sodium azide (51.1 mg, 0.75 mmol) and of ammonium chloride (45.7 mg, 0.85 mmol) were added and the reaction stirred at 100° C. for two more hours. This procedure was repeated two additional times until the MS showed that the reaction went to completion. The reaction was filtered, acidified with 5 mL of 1N HC1 and then diluted with 10 mL of H2O. The solid that formed was collected by filtration and dried under reduced pressure to give the title compound (75.4 mg, 69%) as a tan solid, mp 179-182° C. Elemental Analysis for C26H19N5O2+0.31 mol H2O Calc'd: C, 71.13; H, 4.50; N, 15.95. Found: C, 70.44; H, 4.51; N, 14.98.

reactant | ({6-[2-(2-naphthylmethyl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetonitrile | 0.252 mmol, 99 mg | C1=C(C=CC2=CC=CC=C12)CC=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)OCC#N | C26H18N2O2
reactant | sodium azide | 0.772 mmol, 50.2 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.761 mmol, 40.7 mg | [Cl-].[NH4+]
reactant | sodium azide | 0.75 mmol, 51.1 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.85 mmol, 45.7 mg | [Cl-].[NH4+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-[({6-[2-(2-Naphthylmethyl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)methyl]-1H-tetrazole | 75.4 mg, 69% | C1=C(C=CC2=CC=CC=C12)CC=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)OCC1=NN=NN1 | C26H19N5O2
